US06495546B1
A mixture of N-[(2R)-3-(3-methylsulfonylamino-4-benzyloxy)phenyl-2-hydroxypropyl]-N-[(6RS)-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)benzylamine (34 mg), 50% wet palladium (10%) on charcoal (10 mg) and methanol (1 ml) was stirred under hydrogen (1 atm) at room temperature for 1.5 hours. The reaction mixture was filtered and evaporated. The residue was purified by preparative TLC (eluent; 25% methanol-dichloromethane) to give N-[(2R)-3-(3-methylsulfonylamino-4-hydroxy)phenyl-2-hydroxypropyl]-[(6RS)-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]amine (6.9 mg).

reactant | (6RS)-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)benzylamine | 34 mg | COC1=CC2=C(CCCC(C2)NCC2=CC=CC=C2)C=C1 | C19H23NO
catalyst | palladium | [Pd] | Pd
solvent | methanol | 1 ml | CO | CH4O
product | (6RS)-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]amine | 6.9 mg | COC1=CC2=C(CCCC(C2)N)C=C1 | C12H17NO
